US08420683B2
Preparation of S-trichloroacetyl 5-thiomethylimidazolidine-2,4-dione ([1], R1=—SC(O)CCl3, R2═R3=—H)
L-Cysteine hydantoin (5.00 g, 34.2 mmol) was suspended in dry MeCN (60 mL) and the solution was cooled to 0° C. Pyridine (2.98 g, 37.2 mmol) was added followed by drop wise addition during approx. 10 min of trichloroacetic anhydride (11.6 g, 37.6 mmol dissolved in 20 mL of dry MeCN), such that the temperature was maintained at <5° C. After the addition, the reaction was allowed to warm up to 20° C. while a precipitate formed. After 3 h, the reaction was complete (as determined by 1H NMR in CD3CN). The product was collected by filtration under suction (filter porosity 3). Weight 6.00 g, >95% purity, approx. 60% yield. 1H NMR: (CDCl3+drop DMSO-d6, 300 MHz): δ 10.16 (br s, 1H), 6.97 (br s, 1H), 4.29 (dt, 1H), 3.46 (AB, 2H).

reactant | L-Cysteine hydantoin | 34.2 mmol, 5.00 g | N1C(=O)NC(=O)C1.N[C@@H](CS)C(=O)O
reactant | Pyridine | 37.2 mmol, 2.98 g | N1=CC=CC=C1 | C5H5N
reactant | trichloroacetic anhydride | 37.6 mmol, 20 mL, 11.6 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
solvent | MeCN | 60 mL | CC#N | C2H3N
product | S-trichloroacetyl 5-thiomethylimidazolidine-2,4-dione | approx. 60% yield | ClC(C(=O)SCC1C(NC(N1)=O)=O)(Cl)Cl | C6H5Cl3N2O3S
